US09034866B2
A solution of 4-Dimethylamino-9-(3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester (50 mg, 0.130 mmol), in methanol-ammonia (5 mL) was stirred at room temperature for 0.5 h. Then the mixture was filtered to afford compound 4-Dimethylamino-9-(3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid amide (42 mg, 87%) as a white solid. LC-MS (ESI & APCI): 372.4 (M+1). 1H NMR (400 MHz, DMSO-d6): δ 8.54 (d, J=1.9 Hz, 1H), 8.43 (s, 1H), 7.88 (s, 1H), 7.30 (dd, H1=8.4 Hz, J2=1.9 Hz, 1H), 7.05 (d, J=8.3 Hz, 1H), 5.46 (s, 1H), 4.40 (m, 3H), 2.36 (s, 6H), 1.49 (s, 6H).

reactant | 4-Dimethylamino-9-(3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester | 0.130 mmol, 50 mg | COC(=O)C=1SC=2C(COC3=C(C2N1)C=C(C=C3)C#CC(C)(C)O)N(C)C | C20H22N2O4S
reactant | methanol ammonia | 5 mL | CO.N
product | 4-Dimethylamino-9-(3-hydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid amide | 42 mg, 87% | CN(C1COC2=C(C=3N=C(SC13)C(=O)N)C=C(C=C2)C#CC(C)(C)O)C | C19H21N3O3S
